US07534797B2
(3-(1-Methanesulfonyl-piperidin-4-ylmethyl)-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-8-ylamine)
1-(2-phenylquinolin-7-yl)-3-(piperidin-4-ylmethyl)-imidazo-[1,5-a]-pyrazin-8-amine (110.00 mg, 0.25 mmol) in a dried 15 mL round-bottom flask was dissolved in 2.00 mL of CH2Cl2 and charged with PS-DIEA (150.00 mg, 0.46 mmol). Methanesulfonyl chloride (10 μL, 0.47 equiv) was added in one portion. After 10 min., another 5 μL of methanesulfonyl chloride (0.24 equiv) was added. After another 10 min., another 2.1 μL of methanesulfonyl chloride (0.1 equiv) was added. The reaction was filtered through a fritted funnel, and the resins were rinsed multiple times with CH2Cl2. The crude product was purified by 5 g Jones silica gel (wetted with 100% CH2Cl2, dry loaded with silica, and eluted with 2% (7N NH3) in MeOH/CH2Cl2→5% (7N NH3) in MeOH/CH2Cl2) and afforded the desired product; 1H NMR (400 MHz, CHLOROFORM-d) δ 8.41 (1H, d, J=0.85), 8.29 (1H, d, J=8.86), 8.20 (2H, dd, J=1.51, J=1.12), 7.97 (2H, m), 7.86 (1H, dd, J=1.72, J=1.72), 7.53 (4H, m), 7.24 (1H, d, J=5.26), 7.08 (1H, d, J=6.75), 3.85 (2H, d, J=11.88), 2.98 (2H, d, J=7.08), 2.68 (2H, t), 2.20 (1H, m), 1.94 (2H, d, J=10.92), 1.50 (2H, m); MS (ES+): m/z 513.02/514.03 (80/70) [MH+]; HPLC: tR=2.17 min (OpenLynx, polar—5 min).

reactant | 1-(2-phenylquinolin-7-yl)-3-(piperidin-4-ylmethyl)-imidazo-[1,5-a]-pyrazin-8-amine | 0.25 mmol, 110.00 mg | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)C=1N=C(N2C1C(=NC=C2)N)CC2CCNCC2 | C27H26N6
reactant | DIEA | 0.46 mmol, 150.00 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | Methanesulfonyl chloride | 10 μL, 0.47 equiv | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 5 μL, 0.24 equiv | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 2.1 μL, 0.1 equiv | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 2.00 mL | C(Cl)Cl | CH2Cl2
product | 3-(1-Methanesulfonyl-piperidin-4-ylmethyl)-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-8-ylamine | CS(=O)(=O)N1CCC(CC1)CC1=NC(=C2N1C=CN=C2N)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C28H28N6O2S
